US05057524
4-[Bis(4-fluorophenyl)hydroxymethyl]-N-methyl-1-piperidinepropanamide
A mixture of 5.0 g (0.017 mole) of α,α-bis(4-fluorophenyl)-4-piperidinemethanol, 3.0 g (0.025 mole) of 3-chloro-N-methylpropanamide, 15.0 g (0.142 mole) of anhydrous sodium carbonate and 0.3 g (0.002 mole) of potassium iodide in 100 ml of N,N-dimethylformamide was heated on a steam bath for 16 h. The mixture was poured into 1.5 L of water and extracted twice with 150 ml portions of ethyl acetate. The ethyl acetate fractions were combined, washed with water and brine, dried (MgSO4) and concentrated under reduced pressure to give a dark oil. The oil was purified by column chromatography using 150 g of silica gel on a 60 cm×3.5 cm column, eluted with 10% methanol in methylene chloride. The fractions containing the desired product were partitioned between 15% sodium hydroxide and methylene chloride. The methylene chloride layer was washed with water and brine, dried (MgSO4) and concentrated under reduced pressure to give a glass. Upon trituration with petroleum ether (30°-60° C.), the glass solidified. The solid was recrystallized from ethyl acetate/petroleum ether (30°-60° C.) to yield 3.2 g (50%) of white solid, mp 127°-129° C.

reactant | α,α-bis(4-fluorophenyl)-4-piperidinemethanol | 0.017 mole, 5.0 g | FC1=CC=C(C=C1)C(O)(C1CCNCC1)C1=CC=C(C=C1)F | C18H19F2NO
reactant | 3-chloro-N-methylpropanamide | 0.025 mole, 3.0 g | ClCCC(=O)NC | C4H8ClNO
reactant | sodium carbonate | 0.142 mole, 15.0 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | 0.002 mole, 0.3 g | [I-].[K+]
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | 1.5 L | O | H2O
product | 4-[Bis(4-fluorophenyl)hydroxymethyl]-N-methyl-1-piperidinepropanamide | 3.2 g, 50% | FC1=CC=C(C=C1)C(C1CCN(CC1)CCC(=O)NC)(O)C1=CC=C(C=C1)F | C22H26F2N2O2
